US06184225B2
2M Aqueous sodium hydroxide solution (453 μl, 0.9 mmol) was added to a suspension of 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-(3-morpholinopropionamido)quinazoline (219 mg, 0.45 mmol) in methanol (6 ml) and the mixture stirred for 1 hour. The reaction mixture was diluted with water and then adjusted to pH6 with 2M hydrochloric acid. The resulting precipitate was collected by filtration, washed with water and ethanol, and dried. The solid was dissolved in methylene chloride/methanol and a 5M solution of hydrogen chloride in isopropanol (0.3 ml) added. The volatiles were removed by evaporation, the resulting solid was washed with ether, and dried under vacuum to give 4-(2-fluoro-5-hydroxy-4-methylanilino)-7-(3-morpholinopropionamido)quinazoline (1-86 mg, 80%) as a yellow solid.

reactant | sodium hydroxide | 0.9 mmol, 2M, 453 μl | [OH-].[Na+]
reactant | 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-(3-morpholinopropionamido)quinazoline | 0.45 mmol, 219 mg | FC1=C(NC2=NC=NC3=CC(=CC=C23)NC(CCN2CCOCC2)=O)C=C(C(=C1)C)OC(=O)OC | C24H26FN5O5
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | methanol | 6 ml | CO | CH4O
solvent | water | O | H2O
product | 4-(2-fluoro-5-hydroxy-4-methylanilino)-7-(3-morpholinopropionamido)quinazoline | 1-86 mg, 80% | FC1=C(NC2=NC=NC3=CC(=CC=C23)NC(CCN2CCOCC2)=O)C=C(C(=C1)C)O | C22H24FN5O3
